US04026891
(a) 6-[3'-Nitro-4'-(o-fluoro-benzoylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone
11.7 gm of 6-(4'-amino-3'-nitro-phenyl)-4,5-dihydro-3(2H)-pyridazinone wereadded in small portions to a boiling solution of 15.8 gm of o-fluoro-benzoyl chloride in 350 ml of chlorobenzene, and the resulting mixture was heated for 15 hours more. After cooling, the reaction product was suction-filtered off and boiled with ethanol for purification.

reactant | 6-(4'-amino-3'-nitro-phenyl)-4,5-dihydro-3(2H)-pyridazinone | 11.7 gm | NC1=C(C=C(C=C1)C=1CCC(NN1)=O)[N+](=O)[O-] | C10H10N4O3
reactant | o-fluoro-benzoyl chloride | 15.8 gm | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | chlorobenzene | 350 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 6-[3'-Nitro-4'-(o-fluoro-benzoylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | [N+](=O)([O-])C=1C=C(C=CC1NC(C1=C(C=CC=C1)F)=O)C=1CCC(NN1)=O | C17H13FN4O4
